US07790727B2
2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic acid methyl-(4-methoxy-3-piperazin-1-yl-phenyl)-amide Hydrochloride
The compound was prepared by reaction of 4-{5-[(2,2-difluorobenzo[1,3]dioxole-4-sulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester with sodium hydride and methyliodide by analogy to Preparation Example 3, and subsequent deprotection of the tert.butoxycarbonyl group with hydrochloric acid in isopropanol.

reactant | 4-{5-[(2,2-difluorobenzo[1,3]dioxole-4-sulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N(C)S(=O)(=O)C1=CC=CC=2OC(OC21)(F)F)OC | C24H29F2N3O7S
reactant | sodium hydride | [H-].[Na+]
reactant | methyliodide | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic acid methyl-(4-methoxy-3-piperazin-1-yl-phenyl)-amide Hydrochloride | Cl.CN(S(=O)(=O)C1=CC=CC=2OC(OC21)(F)F)C2=CC(=C(C=C2)OC)N2CCNCC2 | InChI=1S/C19H21F2N3O5S.ClH/c1-23(13-6-7-15(27-2)14(12-13)24-10-8-22-9-11-24)30(25,26)17-5-3-4-16-18(17)29-19(20,21)28-16;/h3-7,12,22H,8-11H2,1-2H3;1H
